US07498292B2
The mixture of ethyl 3-oxododecanoate (1.456 g, ca. 5 mmol), ethylene glycol (2.78 mL, 50 mmol) and a catalytic amount of p-TsOH (95 mg, 0.5 mmol) in benzene (50 mL) was heated to 110° C. under an argon atmosphere overnight. The solvent was removed, and the residue was diluted with 50 mL ethyl acetate. The solution was washed with saturated aqueous NaHCO3 (50 mL) and brine (50 mL), and the organic phase was dried over MgSO4 and concentrated. The residue was purified by flash chromatography (hexane/EtOAc 8:1, Rf=0.21) to give ethyl 3,3-ethylenedioxydodecanoate (1.131 g, 3.95 mmol) in 79% overall yield for the above two steps. 1H NMR (500 MHz, CDCl3) δ 0.88 (t, J=7 Hz, 3H), 1.20-1.44 (m, 17H), 1.76-1.82 (m, 2H), 2.65 (s, 2H), 3.94-4.04 (m, 4H), 4.16 (q, J=7 Hz, 2H); 13C NMR (125 MHz, CDCl3) δ 14.1, 22.6, 23.4, 29.22, 29.43, 29.48, 29.62, 31.8, 37.7, 42.5, 60.4, 65.0, 109.4, 169.5.

reactant | ethyl 3-oxododecanoate | ca. 5 mmol, 1.456 g | O=C(CC(=O)OCC)CCCCCCCCC | C14H26O3
reactant | ethylene glycol | 50 mmol, 2.78 mL | C(CO)O | C2H6O2
reactant | p-TsOH | 0.5 mmol, 95 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | ethyl 3,3-ethylenedioxydodecanoate | 3.95 mmol, 1.131 g | C1OC(CC(=O)OCC)(CCCCCCCCC)OC1 | C16H30O4
